US09447030B2
To a solution of 5-bromo-2-nitroaniline (35.0 g, 161 mmol, 1.0 equiv.) in DMF (4 L) was slowly added sodium hydride (4.64 g, 194 mmol, 1.2 equiv.) followed by the dropwise addition of a solution of (Boc)2O (42.2 g, 194 mmol, 1.2 equiv.) in DMF (100 mL) at room temperature. The reaction mixture was stirred for 4 h at room temperature, then quenched with water. The product was extracted with ethyl acetate. The combined organic layers were washed with water, dried with sodium sulfate and concentrated under reduced pressure. The crude residue was purified by column chromatography (silica gel, 1% EtOAc/hexanes) to give tert-butyl (5-bromo-2-nitrophenyl)carbamate (26.6 g, 52% yield).

reactant | 5-bromo-2-nitroaniline | 161 mmol, 35.0 g, 1.0 equiv. | BrC=1C=CC(=C(N)C1)[N+](=O)[O-] | C6H5BrN2O2
reactant | sodium hydride | 194 mmol, 4.64 g, 1.2 equiv. | [H-].[Na+]
reactant | (Boc)2O | 194 mmol, 42.2 g, 1.2 equiv. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 4 L | CN(C)C=O | C3H7NO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | tert-butyl (5-bromo-2-nitrophenyl)carbamate | 26.6 g, 52% yield | BrC=1C=CC(=C(C1)NC(OC(C)(C)C)=O)[N+](=O)[O-] | C11H13BrN2O4
